US08877780B2
5.1 5-{-[(BENZOFURAN-2-YLMETHYL)-AMINO]-METHYL}-2-(2,6-DIOXO-PIPERIDIN-3-YL)-ISOINDOLE-1,3-DIONE
To a mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.0 mmol) in CH2Cl2 (20 mL), were added diisopropylethylamine (0.52 mL, 3.0 mmol), 2-benzofurancarboxaldehyde (0.36 mL, 3.0 mmol) and glacial acetic acid (0.17 mL, 3.0 mmol). The reaction mixture was stirred at room temperature for 2 hours. Sodium triacetoxyborohydride (1.27 g, 6.0 mmol) was added, and the mixture was stirred at room temperature overnight. Water (20 mL) was added to quench the reaction, and the mixture was extracted with CH2Cl2 (2×50 mL). The organic layer was washed with dilute aqueous HCl (2×150 mL) and water (2×150 mL), and dried (MgSO4) and evaporated under vacuum. The residue was chromatographed using an ethyl acetate-hexanes gradient, eluting the 0.38 g of the product at 83:17 ethyl acetate-hexanes, in 30% yield; mp 133-135° C.; HPLC, Waters Xterra RP18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% HCO2(NH4), 5.11 min (98.22%); 1H NMR (DMSO-d6) δ 2.04-2.10 (m, 1H), 2.50-2.63 (m, 2H), 2.84-2.96 (m, 1H), 3.20 (br, 1H), 3.85 (s, 2H), 3.94 (s, 2H), 5.14 (dd, J=12.6 Hz, 5.1 Hz, 1H), 6.73 (s, 1H), 7.17-7.27 (m, 2H), 7.48-7.58 (m, 2H), 7.84 (t, J=7.8 Hz, 2H), 7.93 (s, 1H), 11.12 (s, 1H); 13C NMR (DMSO-d6) δ 22.0, 30.9, 45.0, 48.9, 51.5, 103.6, 110.8, 120.7, 122.6, 123.2, 123.6, 128.2, 129.6, 131.4, 134.1, 148.8, 154.1, 157.3, 167.1, 167.2, 169.8, 172.7; Anal. Calcd for C23H19N3O5: C, 66.18; H, 4.59; N, 10.07. Found: C, 66.02; H, 4.27; N, 9.94.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.0 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | diisopropylethylamine | 3.0 mmol, 0.52 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-benzofurancarboxaldehyde | 3.0 mmol, 0.36 mL | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | acetic acid | 3.0 mmol, 0.17 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 6.0 mmol, 1.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | 5-{-[(BENZOFURAN-2-YLMETHYL)-AMINO]-METHYL}-2-(2,6-DIOXO-PIPERIDIN-3-YL)-ISOINDOLE-1,3-DIONE | 30% yield | O1C(=CC2=C1C=CC=C2)CNCC=2C=C1C(N(C(C1=CC2)=O)C2C(NC(CC2)=O)=O)=O | C23H19N3O5
